US04847289
Step A: Preparation of (4-cyano-2-fluorophenylthio)thiophene
Sodium hydride (1.80 g 60% dispersion in oil, 0.045 mol) was washed with petroleum ether then suspended in freshly degassed DMF (50 ml). Thiophene thiol (5.22 g, 0.045 mol) was added dropwise under nitrogen and the mixture was stirred until gas evolution ceased. 3,4-Difluorobenzonitrile (5.0 g, 0.036 mol) was added portionwise and the mixture was refluxed about 1.5 hours, after which the mixture was cooled to room temperature. The reaction mixture was poured into cold H2O and extracted with 3×100 ml ether. The ether extracts were washed with water and brine, then treated with decolorizing carbon and magnesium sulfate. After filtration and evaporation of the solvent the residual (8.46 g) oil crystallized.

reactant | Sodium hydride | 0.045 mol, 1.80 g | [H-].[Na+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | Thiophene thiol | 0.045 mol, 5.22 g | S1C(=CC=C1)S | C4H4S2
reactant | 3,4-Difluorobenzonitrile | 0.036 mol, 5.0 g | FC=1C=C(C#N)C=CC1F | C7H3F2N
solvent | H2O | O | H2O
product | (4-cyano-2-fluorophenylthio)thiophene | C(#N)C1=CC(=C(C=C1)SC=1SC=CC1)F | C11H6FNS2
